US05100910
5-[4-(4-methoxy benzyloxy) phenyl] 1-tetrazole ethanol [(Id); code number: 51]
To 30 ml of n-propanol are added 10-2 mole of 5-[4-(4-methoxy benzyloxy) phenyl] tetrazole and 10-2 mole of 2-bromo ethanol. The mixture is heated to reflux for 25 hours. The solvent is evaporated and the residue taken up in 100 ml of hot ether. The etherated solution is washed with 0.5N NaOH, then with water. After drying on sodium sulfate, the etherated phase is concentrated. The compound of code number 42 is obtained after recrystallization in methanol. The recrystallization solvent is concentrated and the residue is subjected to chromatography on a silica column (eluent:ethyl acetate/petroleum ether:1/4) whereby the compound of code number 51 is isolated.

reactant | 5-[4-(4-methoxy benzyloxy) phenyl] tetrazole | 10-2 mole | COC1=CC=C(COC2=CC=C(C=C2)C2=NN=NN2)C=C1 | C15H14N4O2
reactant | 2-bromo ethanol | 10-2 mole | BrCCO | C2H5BrO
solvent | n-propanol | 30 ml | C(CC)O | C3H8O
product | 5-[4-(4-methoxy benzyloxy) phenyl] 1-tetrazole ethanol | COC1=CC=C(COC2=CC=C(C=C2)C2=NN=NN2CCO)C=C1 | C17H18N4O3
